US09120805B2
5.53 g (40.0 mmol) Potassium carbonate is added to a solution of 1.70 ml (20.0 mmol) pyrrole-2-carbonitrile and 8.34 g (30.0 mmol) 2,4′-dibromoacetophenone in 40 ml DMF. The resulting suspension is stirred for 1 hour at room temperature. The reaction mixture is diluted with dichloromethane and filtered with suction. The residue is washed with dichloromethane. The filtrate is evaporated and the residue is chromatographed on a silica gel column with cyclohexane/ethyl acetate as eluent to give 1-[2-(4-bromo-phenyl)-2-oxo-ethyl]-1H-pyrrole-2-carbonitrile as light orange solid; HPLC/MS 2.80 (B), [M+H] 289/291.

reactant | Potassium carbonate | 40.0 mmol, 5.53 g | C([O-])([O-])=O.[K+].[K+]
reactant | pyrrole-2-carbonitrile | 20.0 mmol, 1.70 ml | N1C(=CC=C1)C#N | C5H4N2
reactant | 2,4′-dibromoacetophenone | 30.0 mmol, 8.34 g | BrCC(=O)C1=CC=C(C=C1)Br | C8H6Br2O
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-[2-(4-bromo-phenyl)-2-oxo-ethyl]-1H-pyrrole-2-carbonitrile | BrC1=CC=C(C=C1)C(CN1C(=CC=C1)C#N)=O | C13H9BrN2O
